Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
spironolactone
 
Attending: ___.
 
Chief Complaint:
Altered mental status 

 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ with h/o DM1, CAD, PAD, HTN, and HLD admitted with AMS and 
hyperglycemia. Presents from assisted living where she was found 
sitting in a chair alterred. She was found by EMS diaphoretic 
and minimally responsive to sternal rub. In the truck she 
suddenly woke up and was able to answer questions. She had an 
episode of bradycardia to the ___ without change in mental 
status or blood pressure. She received 250cc NS. She says that 
her blood sugar was over 600 today.

In the ED, initial vitals: T 98, HR 76, BP 151/54, 100% on RA.
Labs notable for: Hct 25 (baseline ___, BG 506, Na 121, 
lactate 2.3, BUN 68, Cr 2.8 (baseline 1.4), BG 16. VBG showed 
7.33/40/41/22. UA showed no ketones, +glucose, +prot. Utox was 
positive for methodone (She takes this at home). EKG showed new 
RBBB, NSR, no STEMI. CXR and CT head showed no acute process. 
She received approx 2L IVF, then started on insulin gtt and NS 
at 125/hr with 40meq K. Troponins were drawn due to new RBBB, 
which were 0.04. Her stool was guaiac negative.

On arrival to the FICU, the patient is initially alert and 
oriented x3. She reports coming to the hospital because her 
"sugars were too high." She has no other complaints. Later in 
her admission, she was noted to be somnolent but still easily 
roused and answering questions appropriately. However she falls 
back asleep unless reprompted. 

REVIEW OF SYSTEMS:  
(+) Per HPI. 10 point ROS otherwise negative. 

 
Past Medical History:
- H/o DVT  
- MI ___, no stents  
- DM type I. Followed by ___.  
- Peripheral neuropathy  
- gastroparesis  
- HTN  
- Hyperlipidemia  
- Hypothyroidism  
- PVD/PAD  
- Autonomic dysfunction, orthostatic hypotension  
- Barretts Esophagus on EGD ___  
- Depression  
- S/p right BKA  
- Hiatal hernia  
- sciatica  
- S/p laminectomy  
- S/p hysterectomy
 
Social History:
___
Family History:
Mother - coronary artery disease with MI in her ___, died at age 
___. Father - coronary artery disease with MI in her ___, died at 
age ___.
 

 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
Vitals: 97.6, 69, 157/55, 14, 100% RA  
GENERAL: Somnolent, rouses easily to voice, answers questions 
appropriately but falls back asleep spontaneously   
HEENT: Sclera anicteric, MMM, oropharynx clear  
LUNGS: Clear to auscultation anterolaterally, no wheezes, rales, 
rhonchi  
CV: Regular rate and rhythm, normal S1 S2, no murmurs, rubs, 
gallops  
ABD: soft, non-tender, non-distended, bowel sounds present, no 
rebound tenderness or guarding, no organomegaly  
EXT: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
SKIN: no lesions or rashes 
NEURO: CNs and strength grossly intact; unable to cooperate 
fully with neuro exam 

 
Pertinent Results:
ADMISSION LABS:
======================
___ 04:15PM BLOOD WBC-8.5 RBC-2.88* Hgb-8.8* Hct-25.5* 
MCV-88 MCH-30.4 MCHC-34.5 RDW-13.4 Plt ___
___ 01:58AM BLOOD WBC-7.9 RBC-2.77* Hgb-8.4* Hct-24.4* 
MCV-88 MCH-30.3 MCHC-34.3 RDW-13.3 Plt ___
___ 01:58AM BLOOD Neuts-66.0 ___ Monos-6.2 Eos-2.0 
Baso-0.4
___ 04:15PM BLOOD ___ PTT-24.7* ___
___ 04:15PM BLOOD Glucose-506* UreaN-68* Creat-2.8* Na-118* 
K-5.4* Cl-93* HCO3-16* AnGap-14
___ 05:40AM BLOOD Glucose-142* UreaN-56* Creat-1.9* Na-132* 
K-4.7 Cl-104 HCO3-18* AnGap-15
___ 04:15PM BLOOD ALT-60* AST-64* CK(CPK)-309* AlkPhos-167* 
TotBili-0.3
___ 04:25PM BLOOD cTropnT-0.04*
___ 10:03PM BLOOD CK-MB-10 MB Indx-3.5 cTropnT-0.03*
___ 04:15PM BLOOD Albumin-3.7 Calcium-9.4 Phos-3.7 Mg-2.1
___ 04:15PM BLOOD Osmolal-293
___ 04:15PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 04:22PM BLOOD ___ pO2-41* pCO2-40 pH-7.33* 
calTCO2-22 Base XS--4
___ 04:22PM BLOOD Glucose-444* Lactate-2.3* Na-121* K-4.7 
Cl-90*
___ 04:22PM BLOOD Hgb-8.8* calcHCT-26
___ 06:10PM URINE Color-Straw Appear-Clear Sp ___
___ 06:10PM URINE Blood-NEG Nitrite-NEG Protein-30 
Glucose-1000 Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-NEG
___ 06:10PM URINE RBC-0 WBC-0 Bacteri-NONE Yeast-NONE Epi-0
___ 06:10PM URINE AmorphX-FEW
___ 06:10PM URINE Mucous-RARE
___ 06:10PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-POS

IMAGING/REPORTS
=======================

___ Imaging CHEST (PORTABLE AP) 
FINDINGS:  
There is no focal consolidation, pleural effusion, pneumothorax, 
or pulmonary edema.  Allowing for technique, the 
cardiomediastinal silhouette is within normal limits.  
IMPRESSION:  No acute cardiopulmonary process. 

___ Imaging CT HEAD W/O CONTRAST 
FINDINGS:  
There is no evidence of infarction, hemorrhage, edema, or mass.  
Prominence of the ventricles and sulci suggest age related 
global atrophy.  Periventricular hypodensities are nonspecific, 
but likely reflect sequelae of chronic small vessel ischemic 
disease.  The basal cisterns appear patent and there is 
preservation of gray-white matter differentiation. No acute 
fracture is seen. The paranasal sinuses, mastoid air cells, and 
middle ear cavities are clear. Atherosclerotic calcifications of 
the carotid siphons are noted. 
  
IMPRESSION:  No acute intracranial process. 

 
Brief Hospital Course:
ASSESSMENT & PLAN:  
___ with h/o DM1, CAD, PAD, HTN, and HLD admitted with AMS and 
hyperglycemia. 

# HHS: hx of T1DM but no ketones on UA. Unclear trigger - no e/o 
infection, and less likely noncompliance as pt appears unable to 
manage her insulin pump. +End organ damage with ___, troponin 
elevation, and AMS, which all resolved. ___ was consulted and 
determined that patient is no longer a candidate for her insulin 
pump.  She was transitioned to long acting insulin lantus and 
SSI per ___ recommendations

# Encephalopathy: Toxic/metabolic due to HHNKC.  Improved with 
treatment of HHS.  

# ARF: Baseline 1.4. Likely prerenal from HHS losses. Improved 
with IVF. 

# New RBB: troponins negative, EMS noted her to have a 
bradycardic episode however she maintained her blood pressure 
during this, strips were reviewed and consistent with sinus 
bradycardia.  Recommend she continue to see cardiology as an 
outpatient with possible event monitor should there be concern 
that her bradycardia is causing symptoms. 

Chronic issues:

# Anxiety/depression: continued citalopram

# CAD/PVD: Continued ASA, plavix, and atorvastatin

# HTN: continued home labetolol, hydralazine

# COPD: continued home spiriva and albuterol prn.

# Hypothyroidism: continued home levothyroxine.

# GERD: continued home pantoprazole. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol Inhaler 2 PUFF IH Q6H:PRN sob 
2. Atorvastatin 20 mg PO QPM 
3. Calcitriol 0.25 mcg PO DAILY 
4. Citalopram 20 mg PO DAILY 
5. Clopidogrel 75 mg PO DAILY 
6. Restasis 2 drops Other TID 
7. Gabapentin 400 mg PO TID 
8. Glucagon 1 mg IV PRN hypoglycemia 
9. HydrALAzine 10 mg PO Q6H 
10. Insulin  Pump SC (Self Administering Medication)Insulin 
Aspart (Novolog) (non-formulary)
Target glucose: 80-180

11. Labetalol 300 mg PO BID 
12. Levothyroxine Sodium 88 mcg PO DAILY 
13. Lidocaine 5% Patch 1 PTCH TD DAILY 
14. Methadone 5 mg PO PRN pain 
15. Metoclopramide 10 mg PO QIDACHS 
16. Ondansetron 4 mg PO Q8H:PRN nausea 
17. Pantoprazole 40 mg PO Q24H 
18. Tiotropium Bromide 1 CAP IH DAILY 
19. Acetaminophen 500 mg PO Frequency is Unknown PRN 
20. Ascorbic Acid ___ mg PO BID 
21. Aspirin 81 mg PO DAILY 
22. Vitamin D Dose is Unknown  PO DAILY 
23. Cyanocobalamin 1000 mcg PO DAILY 
24. Docusate Sodium 100 mg PO BID 
25. Ferrous GLUCONATE 324 mg PO BID 
26. Multivitamins 1 TAB PO DAILY 
27. Polyethylene Glycol 17 g PO DAILY 
28. Senna 17.2 mg PO DAILY 

 
Discharge Medications:
1. Acetaminophen 500 mg PO Q8H:PRN PRN 
2. Albuterol Inhaler 2 PUFF IH Q6H:PRN sob 
3. Aspirin 81 mg PO DAILY 
4. Atorvastatin 20 mg PO QPM 
5. Calcitriol 0.25 mcg PO DAILY 
6. Citalopram 20 mg PO DAILY 
7. Clopidogrel 75 mg PO DAILY 
8. Docusate Sodium 100 mg PO BID 
9. Gabapentin 400 mg PO TID 
10. Glucagon 1 mg IV PRN hypoglycemia 
11. HydrALAzine 15 mg PO BID 
12. Labetalol 600 mg PO BID 
13. Levothyroxine Sodium 88 mcg PO DAILY 
14. Lidocaine 5% Patch 1 PTCH TD DAILY 
15. Methadone 5 mg PO TID pain 
16. Metoclopramide 5 mg PO QIDACHS 
17. Pantoprazole 40 mg PO Q24H 
18. Polyethylene Glycol 17 g PO DAILY 
19. Senna 17.2 mg PO DAILY 
20. Tiotropium Bromide 1 CAP IH DAILY 
21. Ascorbic Acid ___ mg PO BID 
22. Cyanocobalamin 1000 mcg PO DAILY 
23. Ferrous GLUCONATE 324 mg PO BID 
24. Multivitamins 1 TAB PO DAILY 
25. Ondansetron 4 mg PO Q8H:PRN nausea 
26. Restasis 2 drops Other TID 
27. Vitamin D 800 UNIT PO DAILY 
RX *ergocalciferol (vitamin D2) 400 unit 2 tablet(s) by mouth 
once a day Disp #*60 Tablet Refills:*1
28. Glargine 24 Units Dinner
Insulin SC Sliding Scale using HUM Insulin
29. Lantus Solostar (insulin glargine) 100 unit/mL (3 mL) 
subcutaneous DAILY 
24 units SC at bedtime 
RX *insulin glargine [Lantus Solostar] 100 unit/mL (3 mL) 24 
units SC HS Disp #*1 Syringe Refills:*1
30. HumaLOG KwikPen (insulin lispro) 100 unit/mL subcutaneous 
QIDACHS 
Dosing as per sliding scale 
RX *insulin lispro [Humalog KwikPen] 100 unit/mL - - - QIDACHS 
Disp #*1 Syringe Refills:*1
31. Insulin Pen Needle (insulin needles (disposable)) 32 Gauge x 
___ (4mm nano)  SC QIDACHS 
RX *insulin needles (disposable) [Pen Needle] 32 gauge X ___  
QIDACHS Disp #*1 Packet Refills:*1

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary:
- Hyperglycemic, hyperosmolar, non-ketotic syndrome
- Acute renal failure
- Abnormal LFTs NOS

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
see below
 
Followup Instructions:
___